US09315467B2
Part B. A solution of 4-(4-isopropyl-phenyl)-pyridine (1.01 g, 5.1 mmol) in dichloromethane (20 mL) is cooled to 0° C., and a solution of m-chloroperoxybenzoic acid (1.33 g, 7.6 mmol) in dichloromethane (20 mL) is added dropwise. The mixture is allowed to warm to ambient temperature over 12 h. with stirring, then heated to reflux for 2 h. An excess of m-chloroperoxybenzoic acid (0.5 g) is added, and reflux continued for 2 h. The solution is cooled and washed successively with 10% aq. sodium sulfite, 10% aq. sodium carbonate and saturated brine. The organic phase is dried over anhydrous magnesium sulfate and evaporated. The residue is separated by flash chromatography to afford 4-(4-isopropyl-phenyl)-pyridine-N-oxide (0.85 g, 78%).

reactant | 4-(4-isopropyl-phenyl)-pyridine | 5.1 mmol, 1.01 g | C(C)(C)C1=CC=C(C=C1)C1=CC=NC=C1 | C14H15N
reactant | m-chloroperoxybenzoic acid | 7.6 mmol, 1.33 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | m-chloroperoxybenzoic acid | 0.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(4-isopropyl-phenyl)-pyridine-N-oxide | 0.85 g, 78% | C(C)(C)C1=CC=C(C=C1)C1=CC=[N+](C=C1)[O-] | C14H15NO
